Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Patient recorded as having No Known Allergies to Drugs
 
Attending: ___.
 
Chief Complaint:
lower extremtiy edema
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
___ y.o. F with h/o mild dementia, HTN, dyslipidemia, gout who 
presented to the ED after 3 days of worsening ___ weakness and 
leg pain. Patient states her pain is usually present when 
ambulating and does not have any at rest. It is usually mild 
___ starting in the lower back and radiating down both legs but 
more to the right. She denies any associated numbness. She did 
report two episodes of fecal incontinence over last 24 hours. No 
urinary retention - unchanged urinary frequency. Per family in 
the room and the patient - there was no recent trauma. Although 
patient did arrive recently from ___ where she 
resides ___irplane. Since then her functional 
status which usually only involves a cane has declined. She has 
required 2 people to assist her to go to the bathroom.  
ROS: denies any f/c, no n/v, great appetite, although 5 lbs 
weight loss over last 2 weeks, no cough, no cp/sob, no 
diaphoresis, no abdominal pain, no dysuria/hematuria, no melana, 
or brbpr.  
.  
In ED, patient's VS were 97.3 59 152/52 20 100% RA. She 
underwent ___ US which showed no DVT. Patient was unable to 
ambulate after unrevealing workup and was admited. There was 
concern over b/l R>L cellulitis but the Keflex was never given.  


 
Past Medical History:
HTN  
Dyslipidemia  
Gout  
Depression  
GERD  
L frontaltemporal CVA - ___ - Plavix  
h/o herniated disc unclear which one  
b/l total knee replacement ___  
Asthma  
Glaucoma  
ITP in the past - resolved  

 
Social History:
___
Family History:
noncontributory
 
Physical Exam:
Afebrile, VSS, NAD
Gen -- Elderly, cooperative and pleasant
HEENT -- anicteric
Heart -- regular
Lungs -- clear
Abd -- soft, nontender
Ext -- no edema
Neuro/Psych -- oriented to self and family

 
Pertinent Results:
Admission Labs:

___ 01:00PM BLOOD WBC-7.6 RBC-3.18* Hgb-10.1* Hct-28.5* 
MCV-89 MCH-31.6 MCHC-35.4* RDW-13.8 Plt ___
___ 01:00PM BLOOD ___ PTT-26.1 ___
___ 01:00PM BLOOD Glucose-124* UreaN-41* Creat-1.8* Na-138 
K-4.1 Cl-105 HCO3-21* AnGap-16
___ 01:00PM BLOOD Calcium-9.3 Phos-3.6 Mg-2.0 UricAcd-9.2* 
Iron-35
================
Discharge Labs:

___ 07:15AM BLOOD WBC-5.6 RBC-3.57* Hgb-10.8* Hct-32.5* 
MCV-91 MCH-30.3 MCHC-33.4 RDW-13.0 Plt ___
___ 07:15AM BLOOD Glucose-118* UreaN-28* Creat-1.1 Na-140 
K-4.0 Cl-108 HCO3-26 AnGap-10
================
FOOT AP,LAT & OBL RIGHT  ___ 5:59 ___
RIGHT FOOT, THREE VIEWS: The study is read without comparisons. 
There is no fracture or malalignment. The joint spaces are well 
preserved, apart from mild degenerative changes along the dorsal 
tarsal joints. Note is made of an os perineum. No radiopaque 
foreign bodies are seen in the soft tissues.

IMPRESSION: No fracture.
================
PROTEIN AND IMMUNOELECTROPHORESIS 
Protein Electrophoresis      
  ABNORMAL BAND IN GAMMA REGION
BASED ON IFE (SEE SEPARATE REPORT),
IDENTIFIED AS MONOCLONAL IGG LAMBDA
NOW REPRESENTS, BY DENSITOMETRY, ROUGHLY
5% (375 MG/DL) OF TOTAL PROTEIN
INTERPRETED BY ___, MD, PHD 
Immunoglobulin G ___ mg/dL ___ 
Immunoglobulin A 400 mg/dL 70 - 400 
Immunoglobulin M 122 mg/dL 40 - 230 
Immunofixation      
  MONOCLONAL IGG LAMBDA IDENTIFIED
INTERPRETED BY ___, MD, PHD 
==================
BILAT LOWER EXT VEINS  ___ 2:35 ___
BILATERAL LOWER EXTREMITY ULTRASOUND: Grayscale and color 
Doppler sonograms of the right and left common femoral, 
superficial femoral, and popliteal veins was performed. There 
was normal flow, compressibility, augmentation, and waveforms 
demonstrated. No intraluminal thrombus is identified.

IMPRESSION: No evidence of right or left lower extremity deep 
vein thrombosis.

===============
CHEST (PA & LAT)  ___ 3:13 .

AP AND LATERAL CHEST: The aorta is mildly unfolded. The heart is 
not enlarged. Lung volumes are slightly low; however, the lungs 
are clear. There is no evidence of pulmonary vascular 
congestion. There are no pleural effusions. Osseous structures 
demonstrate stable degenerative changes of the spine. There are 
also degenerative changes noted at the right AC joint.

IMPRESSION: No acute cardiopulmonary process.

 
Brief Hospital Course:
1. ___ weakness/edema -- no complaints after admission, resolved 
spontaneously, likely mechanical related to air flight.  No 
evidence of fracture or DVT.  She worked well with physical 
therapy.  24 hour care was recommended on discharge for home 
safety, consistent with her previously arranged adult daycare 
and care by her daughter.

2. acute renal failure  - consistent with hypovolemia.  Improved 
with hydration.  No evidence of UTI.  UPEP was sent for initial 
concern of possible myeloma.  It was abnormal, please see 
results section.  These results returned after Ms. ___ had been 
discharged and returned to ___.  A letter and a copy 
of this dischare summary will be sent to her primary care 
physician, ___, so she can proceed with care 
for this likey diagnosis of monoclonal gammopathy of 
undetermined significance.

3. dementia/delerium  -- improved to baseline during her course.

 
Medications on Admission:
Plavix 75 mg PO daily  
Zoloft 25 mg PO BID  
Omeprazole 20 mg PO Daily  
Simvastatin 40 mg PO daily  
Allegra 180 mg Daily  
HcTZ 12.5 mg PO Daily  
Benzonatate 100 mg PO TID  
Colchicine 0.6 mg PO x 3 days prn - recently given  
Indomethacin 25 mg PO x 3 days prn - recently given  

 
Discharge Medications:
1. Clopidogrel 75 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
2. Pantoprazole 40 mg Tablet, Delayed Release (E.C.) Sig: One 
(1) Tablet, Delayed Release (E.C.) PO Q24H (every 24 hours).  
3. Simvastatin 40 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
4. Acetaminophen 500 mg Tablet Sig: Two (2) Tablet PO Q 8H 
(Every 8 Hours).  
5. Sertraline 50 mg Tablet Sig: 0.5 Tablet PO BID (2 times a 
day).  
6. Colchicine 0.6 mg Tablet Sig: One (1) Tablet PO once a day: 
as taken previously.  
7. Hydrochlorothiazide 12.5 mg Capsule Sig: One (1) Capsule PO 
once a day.  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
1. acute renal failure from hypovolemia
2. lower extremity pain

 
Discharge Condition:
stable, afebrile, dementia

 
Discharge Instructions:
You were hospitalized with dehydration.  Please call your 
primary care physician or return to the hospital with any 
concerns, particularly fever greater than 101 degrees F, mental 
status change, increasing pain, or other alarming symptoms.
 
Followup Instructions:
___